US07323472B2
4-(4-Fluoro-2-methyl-phenyl)-6-isopropylamino-2-methylsulfanyl-pyrimidine-5-carbaldehyde
Prepared as described above in Example 11 starting from 4-chloro-6-isopropylamino-2-methylsulfanyl-pyrimidine-5-carbaldehyde and 4-fluoro-2-methylphenylboronic acid to give the title compound 4-(4-fluoro-2-methyl-phenyl)-6-isopropylamino-2-methylsulfanyl-pyrimidine-5-carbaldehyde. 1H-NMR: δ 1.31 (d, 6H, J=5.7 Hz), 2.21 (s, 3H), 2.59 (s, 3H), 4.52 (m, 1H), 7.90-7.15 (m, 2H), 7.18-7.25 (m, 1H), 9.06 (br s, 1H), 9.50 (s, 1H). LC MS (m/e)=320 (MH+).

reactant | 4-chloro-6-isopropylamino-2-methylsulfanyl-pyrimidine-5-carbaldehyde | ClC1=NC(=NC(=C1C=O)NC(C)C)SC | C9H12ClN3OS
reactant | 4-fluoro-2-methylphenylboronic acid | FC1=CC(=C(C=C1)B(O)O)C | C7H8BFO2
product | 4-(4-fluoro-2-methyl-phenyl)-6-isopropylamino-2-methylsulfanyl-pyrimidine-5-carbaldehyde | FC1=CC(=C(C=C1)C1=NC(=NC(=C1C=O)NC(C)C)SC)C | C16H18FN3OS
